US07189741B2
Preparation of 3-{4-[1-(5-chloro-thiophen-2-ylmethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid
This compound was prepared following the procedure described in example 19 (part C) starting with 1.48 mmol (4.48 mmol) of 1-(5-chloro-thiophen-2-ylmethyl)-3-piperidin-4-yl-1H-indole and 1.0 g (8.8 mmol) of 3-bromomethyl-benzoic acid methyl ester. The crude mixture was purified by flash chromatography over silica gel affording 0.29 g (14% of yield) of the pure acid.

reactant | 1-(5-chloro-thiophen-2-ylmethyl)-3-piperidin-4-yl-1H-indole | 1.48 mmol | ClC1=CC=C(S1)CN1C=C(C2=CC=CC=C12)C1CCNCC1 | C18H19ClN2S
reactant | 3-bromomethyl-benzoic acid methyl ester | 8.8 mmol, 1.0 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-{4-[1-(5-chloro-thiophen-2-ylmethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid | ClC1=CC=C(S1)CN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C26H25ClN2O2S
